US05677316
(3) 1-Benzyl-3-(dibenzylaminomethyl)-3-mesyloxymethylpyrrolidine
Mesyl chloride (2.7 ml) was added to a solution of 1-benzyl-3-(dibenzylaminomethyl)-3-hydroxymethylpyrrolidine (7.88 g) and triethylamine (5.5 ml) in chloroform (80 ml) under ice-cooling, and the mixture was stirred for 30 minutes under ice-cooling. The reaction mixture was sequentially washed with an aqueous solution of sodium hydrogencarbonate and water, dried, concentrated and purified by silica gel column chromatography to give 6.97 g of the object compound as an oil.

reactant | Mesyl chloride | 2.7 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 1-benzyl-3-(dibenzylaminomethyl)-3-hydroxymethylpyrrolidine | 7.88 g | C(C1=CC=CC=C1)N1CC(CC1)(CO)CN(CC1=CC=CC=C1)CC1=CC=CC=C1 | C27H32N2O
reactant | triethylamine | 5.5 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Benzyl-3-(dibenzylaminomethyl)-3-mesyloxymethylpyrrolidine | 6.97 g | C(C1=CC=CC=C1)N1CC(CC1)(COS(=O)(=O)C)CN(CC1=CC=CC=C1)CC1=CC=CC=C1 | C28H34N2O3S
